US06187802B1
A mixture of the crude 2-bromo-1-[1-(4-chlorophenyl)cyclobutyl]-3-phenylpropan-1-one described above, imidazolidine-2-thione (1.02 g), ethanol (15 ml) and acetic acid (10 ml) was heated under reflux for 18 hours then allowed to cool to ambient temperature. The solvents were removed in vacuo and the residue was dried by azeotropic distillation with ethanol (50 ml) followed by ethyl acetate (50 ml). The solid remaining after removal of residual solvent in vacuo was crystallised from ethanol. The resulting product was collected by filtration, washed with ethanol (10 ml) and dried in vacuo at 60° C. to give 2-benzyl-3-[1-(4-chlorophenyl)cyclobutyl]-5,6-dihydroimidazo[2,1-b]-thiazole hydrobromide as white microneedles (2 g), m.p. 255-257° C.

reactant | 2-bromo-1-[1-(4-chlorophenyl)cyclobutyl]-3-phenylpropan-1-one | BrC(C(=O)C1(CCC1)C1=CC=C(C=C1)Cl)CC1=CC=CC=C1 | C19H18BrClO
reactant | imidazolidine-2-thione | 1.02 g | N1C(NCC1)=S | C3H6N2S
reactant | ethanol | 15 ml | C(C)O | C2H6O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-benzyl-3-[1-(4-chlorophenyl)cyclobutyl]-5,6-dihydroimidazo[2,1-b]-thiazole hydrobromide | Br.C(C1=CC=CC=C1)C1=C(N2C(S1)=NCC2)C2(CCC2)C2=CC=C(C=C2)Cl | InChI=1S/C22H21ClN2S.BrH/c23-18-9-7-17(8-10-18)22(11-4-12-22)20-19(15-16-5-2-1-3-6-16)26-21-24-13-14-25(20)21;/h1-3,5-10H,4,11-15H2;1H
